US05417959
A solution of t-butyl-tris(hydroxymethyl)acetate (9.9 g, 0.048 mol) in 50 mL of pyridine is cooled to 0° C. and then portions of p-toluenesulfonyl chloride (30.1 g, 0.158 mol) are added over 1 hr. The mixture is kept at 0° C. for 15 hrs. Then dichloromethane (200 mL) is added and the solution is washed four times with 100 mL of 10% hydrochloric acid, once with 100 mL of saturated sodium bicarbonate and once with 100 mL of saturated sodium chloride. The organic layer is dried over anhydrous sodium sulfate and evaporated under reduced pressure to give t-butyl-tris(tosylmethyl)acetate.

reactant | t-butyl-tris(hydroxymethyl)acetate | 0.048 mol, 9.9 g | C(C)(C)(C)OC(C(CO)(CO)CO)=O | C9H18O5
reactant | p-toluenesulfonyl chloride | 0.158 mol, 30.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | t-butyl-tris(tosylmethyl)acetate | C(C)(C)(C)OC(C(CS(=O)(=O)C1=CC=C(C)C=C1)(CS(=O)(=O)C1=CC=C(C)C=C1)CS(=O)(=O)C1=CC=C(C)C=C1)=O | C30H36O8S3
